US04689349
3-(Hept-1-yl)cyclopentene {3-heptylcyclopentene}
The procedure followed is the same as that described in Example 20 substituting 1-bromoheptane (100 g, 0.56 moles) diluted in tetrahydrofuran (100 ml), granular magnesium (25 g) in tetrahydrofuran (100 ml), 0.1 M solution of Li2CuCl4 (1.7 mmoles), and 3-chlorocyclopentene (57 g, 0.56 moles) diluted in tetrahydrofuran (200 ml). The crude product is fractionally distilled under vacuum leaving a clear, colorless oil (49 g, 0.29 moles), BP 41° C./0.35 mm.

reactant | 1-bromoheptane | 0.56 moles, 100 g | BrCCCCCCC | C7H15Br
reactant | magnesium | 25 g | [Mg] | Mg
reactant | 3-chlorocyclopentene | 0.56 moles, 57 g | ClC1C=CCC1 | C5H7Cl
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(Hept-1-yl)cyclopentene | 0.29 moles, 49 g | C(CCCCCC)C1C=CCC1 | C12H22
